US04277394
(I) Production of Z-(D)-Thr-Gly-OBut
In 50 ml of THF are dissolved 5.0 g of Z-(D)-Thr-OH and 3.6 g of H-Gly-OBut. After cooling, 3.9 g of HONB and 4.5 g of DCC are added, and the mixture is stirred overnight. The solvent is distilled off, and the residue is extracted with 100 ml of AcOEt, followed by washing with water and drying over anhydrous sodium sulphate. The AcOEt is distilled off, and the residue is treated with petroleum ether. Recrystallization from AcOEt-petroleum ether yields 5.0 g of the desired compound. m.p. 56°-57° C., [α]D23 +13.8° (c=0.5, MeOH), Rf1 =0.69.

reactant | Z-(D)-Thr-OH | 5.0 g | N([C@H]([C@@H](O)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C12H15NO5
reactant | H-Gly-OBut | 3.6 g | NCC(=O)OC(C)(C)C | C6H13NO2
reactant | HONB | 3.9 g | C1C2C=CC1C3C2C(=O)N(C3=O)O | C9H9NO3
reactant | DCC | 4.5 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Z-(D)-Thr-Gly-OBut | 5.0 g | N([C@H]([C@@H](O)C)C(=O)NCC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C18H26N2O6
